US07199239B2
Intermediate 36: Ethyl [2-methyl-4-({(propylsulfonyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate
To a reactivial containing ethyl [2-methyl-4-({[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate (100 mg, 0.225 mmol) was added pyridine (0.321 mL, 3.97 mmol) and 1-propanesulfonyl chloride (25.3 μL, 0.225 mmol). The resulting mixture was stirred in a sealed reactivial at 80° C. for 16 h. The reaction mixture was allowed to cool to room temperature and was partitioned between CH2Cl2 (2×10 mL) and water (10 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by Biotage™ chromatography (12 g Silica column) eluted with 1:9 EtOAc:cyclohexane afforded the title compound as a yellow oil (20 mg).

reactant | ethyl [2-methyl-4-({[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 0.225 mmol, 100 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C25H24F3NO3
reactant | pyridine | 3.97 mmol, 0.321 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-propanesulfonyl chloride | 0.225 mmol, 25.3 μL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | Ethyl [2-methyl-4-({(propylsulfonyl)[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 20 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)CCC | C28H30F3NO5S
